US04606757
6-Aminomethyl-2-(diphenoxymethyl)pyridine
To a solution of 0.18 g of 95 percent lithium aluminum hydride in 25 ml of ether was slowly added a solution of 5.90 g of 6-cyano-2-(diphenoxymethyl)pyridine in 60 ml of ether so as to maintain a gentle reflux. The mixture was allowed to stir for about 4 hours. An additional 0.2-0.3 g of lithium aluminum hydride was added. Since no additional reaction occurred, 5 ml of water, 5 ml of 15 percent sodium hydroxide and 20 ml of water were added consecutively. The reaction mixture was filtered and the organic portion separated. The aqueous portion was washed with ether and the combined organic portions were dried over magnesium sulfate. The solvent was stripped off and the residue was dissolved in methylene chloride and then diluted with ~900 ml of hexane. The solution was passed through a silica gel column and the silica gel was rinsed with methylene chloride and then with methanol. The methanol was stripped off leaving the above named product in a yield of 3.0 grams. The structure of the product was confirmed by its NMR and IR Spectrum. Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 72.44, 5.92 and 8.82 percent, respectively as compared with the theoretical contents of 74.51, 5.88 and 9.15 percent, respectively as calculated for the above named compound (Compound 30).

reactant | lithium aluminum hydride | 0.18 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-cyano-2-(diphenoxymethyl)pyridine | 5.90 g | C(#N)C1=CC=CC(=N1)C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C19H14N2O2
reactant | lithium aluminum hydride | 0.2-0.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 6-Aminomethyl-2-(diphenoxymethyl)pyridine | NCC1=CC=CC(=N1)C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C19H18N2O2
